US06967204B2
5-tert-Butyl-4-nitro-1H-pyrazol-3-carboxylic acid amide (4.6 g, 21 mmol) and 10% palladium on carbon (300 mg) in ethanol (80 ml) was stirred under hydrogen (60 psi) at room temperature for 18 hours. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was pre-absorbed onto silica gel and purified by flash column chromatography eluting with a solvent gradient of dichloromethane: methanol (100:0 changing to 95:5 then 90:10, by volume) to give 4-amino-5-tert-butyl-1H-pyrazol-3-carboxylic acid amide (2.96 g) as an off-white solid, which was a mixture of rotamers. 1H NMR (400 MHz, DMSO-D6): δ=12.10-12.20 (0.75H, brs), 11.75-11.85 (0.25H, brs), 7.04-7.16 (1.5H, brs), 6.88-6.96 (0.5H, brs), 4.27-4.59 (2H, 2×brs), 1.12 (9H, s) ppm. LRMS (electrospray): m/z [M+H]+ 183, [M+Na]+ 205, [M−H]+ 181. Anal. Found C, 52.45; H, 7.84; N, 30.62. C8H14N4O requires C, 52.73; H, 7.74; N, 30.75%.

reactant | 5-tert-Butyl-4-nitro-1H-pyrazol-3-carboxylic acid amide | 21 mmol, 4.6 g | C(C)(C)(C)C1=C(C(=NN1)C(=O)N)[N+](=O)[O-] | C8H12N4O3
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 4-amino-5-tert-butyl-1H-pyrazol-3-carboxylic acid amide | 2.96 g | NC=1C(=NNC1C(C)(C)C)C(=O)N | C8H14N4O
